US08497360B2
To a solution of 3-iodo-4-nitrobenzonitrile (314 mg, 1.14 mmol) in anhydrous tetrahydrofuran (5.5 mL) cooled at minus 45° C. (dry ice-isopropanol bath) under nitrogen atmosphere, phenylmagnesium bromide (2 M in THF, 3.16 mL, 6.32 mmol) was added at a rate to keep the temperature at or below minus 40° C. Upon completion of the addition the mixture was stirred for five minutes, then isobutyraldehyde (0.957 mL, 10.54 mmol) was added. The mixture was allowed to gradually warm up to room temperature, then quenched with saturated NH4Cl (2 mL) and poured into water (50 mL)/dichloromethane (50 mL). The organic layer was separated; aqueous layer was extracted three times with dichloromethane (25 mL each). Combined organic extract was dried over anhydrous Na2SO4, concentrated under reduced pressure, and purified by silica gel column chromatography to yield racemic (RS)-1-(5-cyano-2-nitrophenyl)-2-methyl-1-propanol (57 mg, 23%) as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.93 (d, 1 H, J=8.1 Hz, Ph-H), 7.74 (s, 1 H, Ph-H), 7.21 (d, 1 H, J=8.1 Hz, Ph-H), 4.72 (d, 1 H, J=3.6 Hz, Ph-CH), 2.33 (br. s, 1 H, OH), 2.03 (m, 1 H, CHCH(CH3)2), 1.04 (d, 3 H, J=6.8 Hz, CH3), 0.89 (d, 3 H, J=6.6 Hz, CH3); 13C NMR (100 MHz, CDCl3): δ 147.78 (C), 140.25 (CH), 131.40 (CH), 131.24 (CH), 118.36 (C), 112.27 (CN), 103.82 (C), 80.80 (CH), 33.56 (CH), 19.70 (CH3), 15.62 (CH3).

reactant | 3-iodo-4-nitrobenzonitrile | 1.14 mmol, 314 mg | IC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3IN2O2
reactant | dry ice isopropanol | C(=O)=O.C(C)(C)O
reactant | phenylmagnesium bromide | 6.32 mmol, 2 M, 3.16 mL | C1(=CC=CC=C1)[Mg]Br
reactant | isobutyraldehyde | 10.54 mmol, 0.957 mL | C(C(C)C)=O | C4H8O
solvent | tetrahydrofuran | 5.5 mL | O1CCCC1 | C4H8O
product | racemic (RS)-1-(5-cyano-2-nitrophenyl)-2-methyl-1-propanol | 57 mg, 23% | C(#N)C=1C=CC(=C(C1)C(C(C)C)O)[N+](=O)[O-] | C11H12N2O3
